US04367238
A solution of 4-chlorophenyl 2-methoxy-3-bromomethylphenyl ether (14.9 g) in dimethyl sulfoxide (40 ml) and powdered sodium cyanide (2.3 g) were treated in a similar manner to that of Example 5-(4) to give oily 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetonitrile (11.8 g).

reactant | 4-chlorophenyl 2-methoxy-3-bromomethylphenyl ether | 14.9 g | COC1=C(C=CC=C1CBr)OC1=CC=C(C=C1)Cl | C14H12BrClO2
reactant | sodium cyanide | 2.3 g | [C-]#N.[Na+]
solvent | dimethyl sulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 2-[2-methoxy-3-(4-chlorophenoxy)phenyl]acetonitrile | 11.8 g | COC1=C(C=CC=C1OC1=CC=C(C=C1)Cl)CC#N | C15H12ClNO2
